US07855209B2
To a suspension of 3-(4-chlorophenyl)-3-oxo-propionitrile (900 mg, 5 mmol) and 2,5-dimethyl-[1,4]dithiane-2,5-diol (450 mg, 2.5 mmol) in absolute EtOH (10 mL), cooled in a bath of water/ice (4° C.), is added TEA (5 mmol, 0.7 mL). After stirring for 10 min at RT, the mixture is refluxed for 2 h. The resulting red-brown solution is cooled and concentrated, and the residue dissolved in EtOAc (10 mL). The organic phase is subsequently washed with 1% w/v aqueous HCl (5 mL), a saturated solution of NaHCO3 (5 mL), water (5 mL) and brine (5 mL), dried (Na2SO4) and concentrated to give a brown residue. The residue is suspended in ethyl ether (15 mL), the suspension stirred for 30 min and filtered. The filtrate is concentrated, suspended with petroleum ether and the resulting suspension is stirred for 30 min and filtered. The filtrate is concentrated, and the residue is purified by column chromatography using a mixture of EtOAc-petroleum ether 2-8 as eluent to give (2-amino-4-methylthiophen-3-yl)(4-chlorophenyl)methanone as an orange solid: m.p. 148-150° C. 1H NMR (CDCl3) δ: 1.66 (s, 3H), 5.85 (s, 1H), 6.61 (br s, 2H), 7.38 (d, J=6.4 Hz, 2H), 7.45 (d, J=6.4 Hz, 2H); IR (KBr) cm−1: 3345, 1589, 1435, 1267.

reactant | 3-(4-chlorophenyl)-3-oxo-propionitrile | 5 mmol, 900 mg | ClC1=CC=C(C=C1)C(CC#N)=O | C9H6ClNO
reactant | 2,5-dimethyl-[1,4]dithiane-2,5-diol | 2.5 mmol, 450 mg | CC1(SCC(SC1)(O)C)O | C6H12O2S2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | ethyl ether | 15 mL | C(C)OCC | C4H10O
product | (2-amino-4-methylthiophen-3-yl)(4-chlorophenyl)methanone | NC=1SC=C(C1C(=O)C1=CC=C(C=C1)Cl)C | C12H10ClNOS
